US05733882
c) t-butyl 3-(1-benzyloxymethylimidazol-2-yl)-3-hydroxy-4-methyl-pentanoate
Diisopropylamine (83 μL, 0.59 mmol) and THF (1.5 mL) were cooled to -40° C. and n-BuLi (188 μL, 0.47 mmol, 2.5M in hexane) was added. The reaction mixture was warmed to -10° C. and stirred for 15 m, recooled to -70° C. and t-butyl acetate (63 μL, 0.47 mmol) was added. The reaction was stirred for 5 m, and HMPA (254 μL, 1.41 mmol) was added. The reaction was stirred at -70° C. for 5 m and 1-(benzyloxymethylimidazol-2-yl)-2-methyl-propan-1-one (100 mg, 0.39 mmol) in THF (1.5 mL) was added dropwise. The mixture was stirred at -70° C. for 30 m, -40° C. for 30 m, -10° C. for 30 m, warmed to 23° C., poured into 10% aqueous K2CO3 and extracted with EtOAc. The combined organic extracts were washed with brine, dried (K2CO3), concentrated and flash chromatographed (silica gel, step gradient, 0-20% EtOAc/hexanes) to afford the title compound (131 mg, 90%). 1H NMR(CDCl3, 400 MHz) δ 7.25 (m, 5H), 6.96 (s, 1H), 6.91 (s, 1H), 5.69 (d, 1H, J=10 Hz), 5.65 (d, 1H, J=10 Hz), 4.53 (d, 1H, J=11 Hz), 4.48 (d, 1H, J=11 Hz), 3.23 (d, 1H, J=6 Hz), 2.57 (d, 1H, J=6 Hz), 2.14 (m, 1H), 1.39 (s, 9H); 0.97 (d, 3H, J=7 Hz), 0.75 (d, 3H, J=7 Hz); MS(ES) m/e 375 [M+H]+.

reactant | Diisopropylamine | 0.59 mmol, 83 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 0.47 mmol, 2.5M, 188 μL | [Li]CCCC
reactant | t-butyl acetate | 0.47 mmol, 63 μL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | HMPA | 1.41 mmol, 254 μL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 1-(benzyloxymethylimidazol-2-yl)-2-methyl-propan-1-one | 0.39 mmol, 100 mg | C(C1=CC=CC=C1)OCC=1N=C(NC1)C(C(C)C)=O | C15H18N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | t-butyl 3-(1-benzyloxymethylimidazol-2-yl)-3-hydroxy-4-methyl-pentanoate | 131 mg, 90% | C(C1=CC=CC=C1)OCN1C(=NC=C1)C(CC(=O)OC(C)(C)C)(C(C)C)O | C21H30N2O4
